US09034880B2
Preparation of 2,3,4,5-tetrahydro-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2-phenyl-1H-pyrido[4,3-b]indole (Compound 279)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-8-methyl-2-phenyl-1H-pyrido[4,3-b]indole, 2-methyl-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-8-methyl-2-phenyl-1H-pyrido[4,3-b]indole | CC1=CC=2C3=C(NC2C=C1)CCN(C3)C3=CC=CC=C3 | C18H18N2
reactant | 2-methyl-5-vinylpyridine | CC1=NC=C(C=C1)C=C | C8H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2,3,4,5-tetrahydro-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2-phenyl-1H-pyrido[4,3-b]indole | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C3=CC=CC=C3 | C26H27N3
